US05446062
Step 2. Preparation of 4-(N-acetyl-N-methylamino)iodobenzene
The desired compound is prepared according to the method of Example 3, step2, except substituting, 4-(N-acetylamino)iodobenzene, prepared as in step 1, for 4-(N-methylaminocarbonyl)aminobenzoate

reactant | 4-(N-acetylamino)iodobenzene | C(C)(=O)NC1=CC=C(C=C1)I | C8H8INO
reactant | 4-(N-methylaminocarbonyl)aminobenzoate | CNC(=O)NC1=CC=C(C(=O)[O-])C=C1
product | 4-(N-acetyl-N-methylamino)iodobenzene | C(C)(=O)N(C)C1=CC=C(C=C1)I | C9H10INO
